US07846929B2
N-Butyllithium (9.4 mL, 22.48 mmol, 2.5 M in hexane solution) was added to a mixture of 2-chloro-4-morpholinothieno[3,2-d]pyrimidine (3.0 g, 11.74 mmol) in 60 mL of THF at −78° C. The reaction mixture was allowed to warm to −40° C. and stirred for 30 min. A solution of iodine (6.0 g, 23.48 mmol) in 10 mL of THF was added dropwise. After the addition was completed. The reaction mixture was brought to room temperature and stirred for 2 h. The mixture was quenched by diluting with dichloromethane (300 mL) and extracting with H2O (2×100 mL). The organic layer was washed with Na2S2O3 (2×100 mL), H2O (2×100 mL), dried over MgSO4, filtered and evaporated to afford 2-chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine (3.4 g, 75%).

reactant | N-Butyllithium | 22.48 mmol, 2.5 M, 9.4 mL | [Li+].CCC[CH2-]
reactant | 2-chloro-4-morpholinothieno[3,2-d]pyrimidine | 11.74 mmol, 3.0 g | ClC=1N=C(C2=C(N1)C=CS2)N2CCOCC2 | C10H10ClN3OS
reactant | iodine | 23.48 mmol, 6.0 g | II | I2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine | 3.4 g, 75% | ClC=1N=C(C2=C(N1)C=C(S2)I)N2CCOCC2 | C10H9ClIN3OS
